US05159070
The process of claim 1 comprising reacting at low temperature in dimethylacetamide, in the presence of triethylamine, tosyl chloride and the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetic acid and reacting the resulting product with 7-amino-cephalosporanic acid in methylene chloride in the presence of triethylamine to obtain the syn isomer of 3-acetoxymethyl-7-[2-tritylamino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC | C25H21N3O3S
reactant | 7-amino-cephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ceph-3-eme-4-carboxylic acid | S1CC=C(N2[C@H]1CC2=O)C(=O)O | C7H7NO3S
